US06693123B2
To a 0° C. solution in THF (3.0 mL) of [4-(3-Pyridylaminomethylene)-2-phenylbenzoyl-]N-methylmethionine methyl ester (135 mg, 0.29 mmol), prepared as in Example 158, was added a solution of lithium hydroxide hydrate (20 mg, 0.49 mmol) in water (1 mL). Methanol (1 mL) and water (0.5 mL) were then added to obtain a clear solution. The reaction mixture was stirred for 1.5 hours and then the cold bath was removed and stirring was continued for 2.5 hours. The reaction mixture was partitioned between water which was taken to pH 4 with HCl and ethyl acetate. The aqueous phase was extracted three times with chloroform. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was dissolved in acetonitrile-methanol. The solution was diluted with water, frozen, and lyophilized to give [4-(3-pyridylaminomethyl)-2-phenylbenzoyl]-N-methylmethionine (120 mg) as a white powder. 1H NMR (300 MHz, D3COD) δ 7.93 (d, 1H), 7.78 (dd, 1H), 7.50 (d, 1H), 7.38 (m, 7H), 7.20 (m, 1H), 7.12 (m, 1H), 5.20 and 4.55 (both m, total 1H), 4.45 (s, 2H), 2.70 and 2.45 (both br s, total 3H), 2.24 and 2.10 (both m, total 2H), 2.00 (br s, 3H), 1.80 and 1.68 (both m, 2H); MS (DCI-NH3) m/e 450 (M+H)+. Anal calcd for C25H27N3O3S.0.65 HCl: C, 63.45; H, 5.89; N, 8.88. Found: C, 63.51; H, 5.54; N, 8.53.

reactant | [4-(3-Pyridylaminomethylene)-2-phenylbenzoyl-]N-methylmethionine methyl ester | 0.29 mmol, 135 mg | COC([C@@H](N(C)C(C1=C(CC(C=C1)=CNC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C26H29N3O3S
reactant | lithium hydroxide hydrate | 0.49 mmol, 20 mg | O.[OH-].[Li+]
reactant | Methanol | 1 mL | CO | CH4O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | [4-(3-pyridylaminomethyl)-2-phenylbenzoyl]-N-methylmethionine | 120 mg | N1=CC(=CC=C1)NCC1=CC(=C(C(=O)N([C@@H](CCSC)C(=O)O)C)C=C1)C1=CC=CC=C1 | C25H27N3O3S
